data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3888,4448,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][N-:16][C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][N:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,13.834710331236346,-43.11038795246775
2212,2453,[CH3:13][O:14][C:15](=[O:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N+:24]([CH3:25])=[C:26]([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32].[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:24]([CH3:25])[C:26]2([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32],water,298.15,42.6707920347434,1.1370135124013885
1103,1201,[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[CH:12]=[NH+:13][C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:14]([C:15]#[N:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:13][CH:12]3[C:10]([CH3:9])=[O:11],water,298.15,14.071639902665098,-36.449790710839856
804,871,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]#[N:15])[N:16]=[C:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,13.794097061243772,-51.26096837637344
4854,5537,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14](=[O:15])[O:16][CH3:17])([C:18](=[O:19])[O:20][CH3:21])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,24.731666367023816,-14.624590941845126
71,82,[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6].[N:7]#[C:8][CH:9]=[O+:10][CH-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[CH:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[O:10][CH:9]1[C:8]#[N:7],water,298.15,8.070255542791125,-77.55556093916718
1440,1582,[CH3:12][O:13][C:14](=[O:15])[c-:16]1[o+:17][c:18]([C:19]#[N:20])[o:21][c:22]1=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]1([C:14]([O:13][CH3:12])=[O:15])[O:17][C:18]2([C:19]#[N:20])[O:21][C:22]1=[O:23],water,298.15,19.466957056485835,-13.843222553264534
4480,5113,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20]#[N:21])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:22]([CH3:23])=[O:24],water,298.15,29.25717365696207,-2.504090361088582
1678,1851,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[O+:19][C-:20]([CH3:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([Cl:6])([Cl:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:20]([CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[O:19][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:17]#[N:18],water,298.15,14.946662534066874,-64.61639212641474
2574,2855,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[N-:27][N+:28]#[C:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[c:8]2[c:9]([c:29](-[c:30]3[cH:31][cH:32][cH:33][cH:34][cH:35]3)[n:28][n:27]2[C:25]([NH:24][CH3:23])=[O:26])[C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1,water,298.15,29.41659253741825,-55.78926512644982
5168,5866,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28]([CH3:29])=[O:30]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[O:20][CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:28]([CH3:29])=[O:30],water,298.15,35.09096141645336,-2.1102850522913075
